US05512431
3,N4 -Ethenodeoxycytidine is synthesized according to the published procedure of Eberle et al. (Carcinogenesis 10:2751-2756, 1989). To 2'-deoxycytidine (8 mg, available from Sigma Chemical Company) in 0.4 mL of DMSO is added 0.04 mL of a 45% aqueous solution of chloroacetaldehyde and the reaction mixture is stirred for 1 hour at 70° C. The reaction mixture is then evaporated to dryness and the resulting residue purified by reverse-phase HPLC on a Nucleosil C18 column (Altech) to yield 3,N4 -ethenodeoxycytidine.

reactant | 2'-deoxycytidine | 8 mg | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O4
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
solvent | DMSO | 0.4 mL | CS(=O)C | C2H6OS
product | 3,N4 -ethenodeoxycytidine | C1[C@@H]([C@H](O[C@H]1N2C=CC3=NC=CN3C2=O)CO)O | C11H13N3O4
